US04180395
4-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1-butanol
To a solution of 11 grams (0.06 mole) of 3,5-dichloro-2,6-difluoropyridine in 35 milliliters of 1,4-butanediol was added over a 10 minute period 2.44 grams of sodium hydroxide in 35 milliliters of ethylene glycol. The temperature was maintained at between 50°-60° C. during the addition. The mixture was stirred for 13/4 hours while the temperature was maintained between 60°-65° C. The reaction mixture was cooled and poured into water and thereafter extracted three times with 135 milliliter portions of hot hexane. The mixture was heated to remove most of the hexane by evaporation, cooled and filtered to remove the solid 4-(3,5-dichloro-6-fluoro-2-pyridyloxy)-1-butanol product. The product was recovered in a yield of 11 grams (73 percent of theoretical) and melted at 38°-39° C. Upon analysis, the product was found to have carbon, hydrogen, chlorine and nitrogen contents of 43.2, 3.7, 27.9 and 5.7 percent, respectively, as compared with the theoretical contents of 42.5, 3.9, 27.9 and 5.5 percent, respectively, as calculated for the above named compound.

reactant | 3,5-dichloro-2,6-difluoropyridine | 0.06 mole, 11 grams | ClC=1C(=NC(=C(C1)Cl)F)F | C5HCl2F2N
reactant | sodium hydroxide | 2.44 grams | [OH-].[Na+]
reactant | water | O | H2O
solvent | 1,4-butanediol | 35 milliliters | C(CCCO)O | C4H10O2
solvent | ethylene glycol | 35 milliliters | C(CO)O | C2H6O2
product | 4-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1-butanol | ClC=1C(=NC(=C(C1)Cl)F)OCCCCO | C9H10Cl2FNO2
